US08193189B2
4-Bromo-2-methoxy-1-(2-methoxy-ethoxy)-benzene
2.0 g (9.65 mmol) 4-bromoguaiacol and 1.89 g (5.8 mmol) Cs2CO3 are suspended in 20.0 ml dry DMF and 1.02 ml (10.6 mmol) 2-bromoethylmethylether are introduced at RT under an argon flux. The resulting pale brown suspension is heated to 100° C. for 15 h. After cooling, the reaction mixture is partitioned between EtOAc and water. The aqueous phase is re-extracted twice with EtOAc. The combined organic solution is washed with brine, dried over Na2SO4 and concentrated in vacuo to afford the title compound as a light yellow residue.

reactant | 4-bromoguaiacol | 9.65 mmol, 2.0 g | BrC=1C=C(C(=CC1)OC)O | C7H7BrO2
reactant | Cs2CO3 | 5.8 mmol, 1.89 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethylmethylether | 10.6 mmol, 1.02 ml | BrCCOC | C3H7BrO
solvent | DMF | 20.0 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-2-methoxy-1-(2-methoxy-ethoxy)-benzene | BrC1=CC(=C(C=C1)OCCOC)OC | C10H13BrO3
